US06468998B1
Dibenzo[a,d]cycloheptene-5-carboxylic acid and (S)-3-amino-1-(2-phenylethyl)pyrrolidine were reacted under the same conditions as in Example 23 to give (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)dibenzo[a,d]cycloheptene-5-carboxamide.

reactant | Dibenzo[a,d]cycloheptene-5-carboxylic acid | C1C=CC=C2C(=C3C(=CC=C21)C=CC=C3)C(=O)O | C16H12O2
reactant | (S)-3-amino-1-(2-phenylethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=CC=C1 | C12H18N2
product | (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)dibenzo[a,d]cycloheptene-5-carboxamide | C1(=CC=CC=C1)CCN1C[C@H](CC1)NC(=O)C1=C2C(=CC=C3C1=CC=CC3)C=CC=C2 | C28H28N2O
